US09079929B2
Intermediate 17A: 1-Cyclopentyl-3-(isoquinolin-5-yl)urea:
To isoquinolin-5-amine (0.23 g, 1.595 mmol) in DCM (5 mL) was added DIEA (0.557 mL, 3.19 mmol) and isocyanatocyclopentane (0.180 mL, 1.595 mmol). After 24 h, the reaction was quenched with H2O (15 mL) and extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine (10 mL) and dried (MgSO4). An impure yellow solid was collected and was carried onto the next step. MS (ESI) m/z: 256 (M+H)+.

reactant | isoquinolin-5-amine | 1.595 mmol, 0.23 g | C1=NC=CC=2C(=CC=CC12)N | C9H8N2
reactant | DIEA | 3.19 mmol, 0.557 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isocyanatocyclopentane | 1.595 mmol, 0.180 mL | N(=C=O)C1CCCC1 | C6H9NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-Cyclopentyl-3-(isoquinolin-5-yl)urea | C1(CCCC1)NC(=O)NC1=C2C=CN=CC2=CC=C1 | C15H17N3O
